US04827004
The purified product obtained, (2Z,6E)-10-(tert.-butyldimethylsilyloxy)-3,7,11-trimethyl-2,6,11-dodecatrienyl acetate, is dissolved in 5 ml of tetrahydrofuran and treated with 320 mg of tetrabutylammonium fluoride. The solution is stirred at room temperature for 16 hours. After removing the solvent on a rotary evaporator the residue is chromatographed on silica gel with ether-hexane 1:1. There is obtained (2Z,6E)-10-hydroxy-3,7,11-trimethyl-2,6,11-dodecatrienyl acetate which exhibits the following bands in the IR spectrum: 3454 cm-1, 1739 cm-1, 1651 cm-1, 1446 cm-1, 1236 cm-1, 1023 cm-1, 955 cm-1, 898 cm-1.

reactant | (2Z,6E)-10-(tert.-butyldimethylsilyloxy)-3,7,11-trimethyl-2,6,11-dodecatrienyl acetate | C(C)(=O)OC\C=C(/CC\C=C(\CCC(C(=C)C)O[Si](C)(C)C(C)(C)C)/C)\C | C23H42O3Si
reactant | tetrabutylammonium fluoride | 320 mg | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | (2Z,6E)-10-hydroxy-3,7,11-trimethyl-2,6,11-dodecatrienyl acetate | C(C)(=O)OC\C=C(/CC\C=C(\CCC(C(=C)C)O)/C)\C | C17H28O3
